US09108936B2
To a stirred solution of 4-bromo-N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-benzamide (2.7 g, 7.67 mmol) in N-methyl-2-pyrrolidone (10 ml) is added morpholine (0.93 g, 10.7 mmol) at RT. The reaction mixture is degassed and flushed with argon for 30 min followed by addition of sodium tert-butoxide (0.95 g, 9.9 mmol). The reaction mixture is heated to 40° C. At this temperature are added tris(dibenzylideneacetone)dipalladium(0) (0.31 g, 0.34 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.47 g, 0.76 mmol) and stirred at 100° C. for 12 h. After completion of the reaction (monitored by TLC), the mixture is diluted with water (50 ml) and extracted with ethyl acetate (3×75 ml). The organic layer is washed with water (50 ml), brine (50 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 40% acetone/hexane) to yield N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide (2.50 g, 6.90 mmol, 91%).

reactant | 4-bromo-N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-benzamide | 7.67 mmol, 2.7 g | BrC1=CC(=C(C(=O)NCC2=CC=C(C=C2)F)C(=C1)C)OC | C16H15BrFNO2
reactant | morpholine | 10.7 mmol, 0.93 g | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 9.9 mmol, 0.95 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.76 mmol, 0.47 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | N-methyl-2-pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.34 mmol, 0.31 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[(4-fluorophenyl)-methyl]-2-methoxy-6-methyl-4-morpholin-4-yl-benzamide | 6.90 mmol, 2.50 g, 91% | FC1=CC=C(C=C1)CNC(C1=C(C=C(C=C1C)N1CCOCC1)OC)=O | C20H23FN2O3
